US05219886
N-[2(R,S)-ACETYLTHIOMETHYL-3-PHENYLPROPANOYL]-(S)-ISOSERINE BENZYL ESTER
Add 2(R,S)-acetylthiomethyl-3-phenylpropionic acid (0.59 g) to (S)-isoserine benzyl ester, hydrochloride (0.578 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (0.53 g), 1-hydroxybenzotriazole (HOBT) (0.37 g) and N-methylmorpholine (0.80 ml) in dimethylformamide (DMF) (10 ml), and stir the resulting mixture for 20 hours. Concentrate the reaction mixture in vacuo and partition the residue between dichloromethane/water. Concentrate the dried (MgSO4) dichloromethane solution in vacuo. Chromatograph the resulting residue on a column of silica gel (1 L) using chloroform:methanol 19.5:1 as eluant to give the title compound, a colorless oil, [α]D26 =+12.3° (MeOH).

reactant | 2(R,S)-acetylthiomethyl-3-phenylpropionic acid | 0.59 g | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
reactant | (S)-isoserine benzyl ester, hydrochloride | 0.578 g | Cl.C(C1=CC=CC=C1)OC([C@H](CN)O)=O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.53 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.37 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 0.80 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[2(R,S)-ACETYLTHIOMETHYL-3-PHENYLPROPANOYL]-(S)-ISOSERINE BENZYL ESTER | C(C1=CC=CC=C1)OC([C@H](CNC(C(CC1=CC=CC=C1)CSC(C)=O)=O)O)=O | C22H25NO5S
